US08895737B2
Preparation of N-(6-(3-tert-butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl)methanesulfonamide (compound (A))
A 3-L, 3-neck, round-bottom flask was equipped with an overhead stirrer, a thermocouple, a Claisen condenser and a reflux condenser. Tris(dibenzylideneacetone)dipalladium(0) (0.330 g, 0.360 mmol), di-tert-butyl(2′,4′,6′-triisopropyl-3,4,5,6-tetramethylbiphenyl-2-yl)phosphine (0.416 g, 0.864 mmol) and milled potassium phosphate tribasic (21.0 g, 99.0 mmol) were charged to the 3-L flask. The flask was purged with argon for not less than 90 minutes with constant stirring of the solids. t-Amyl alcohol (250 ml) was purged with argon for not less than 30 minutes and was transferred to the 3-L flask using a cannula under argon atmosphere. The contents of the 3-L flask were heated to 80° C. and stirred at this temperature for 30 minutes. A 1-L round bottom flask equipped with a magnetic stir bar was charged with 6-(3-tert-butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate (62.9 g, 90 mmol), methanesulfonamide (12.85 g, 135 mmol) and t-amyl alcohol (505 mL), purged with argon and heated to 60° C. The reaction mixture was stirred under argon for not less than 30 minutes. A clear yellow solution was observed. This solution was transferred to the 3-L flask using a cannula under argon atmosphere. The temperature of the 3-L flask was raised to 85° C. and the contents were stirred for 14 hours under a positive pressure of argon. The temperature was then raised to 95° C. and the contents were stirred for an additional 4 hours under a positive pressure of argon. The reaction mixture was allowed to cool down to room temperature, diluted with tetrahydrofuran (2200 mL) and water (800 mL) and was transferred to a 6-L separatory funnel. The organic layer was washed thrice with water (2000 mL) containing L-cysteine (17.3 g) and NaCl (235 g). The organic layer was collected, filtered through a pad of diatomaceous earth and was concentrated in vacuo to approximately 250 mL. Ethyl acetate (775 mL) was added over 7 hours with stirring, and the mixture was allowed to stir for an additional 14 hours. White solid was isolated by filtration, and the solid was washed with ethyl acetate (1000 mL). The solid was dissolved in tetrahydrofuran (1500 mL) and filtered through a pad of diatomaceous earth to obtain a clear solution. The diatomaceous earth was washed with tetrahydrofuran (300 mL). The combined tetrahydrofuran solution was concentrated in vacuo to approximately 250 mL, and then ethyl acetate (775 mL) was added over 7 hours with stirring. The product solution was allowed to stir for an additional 14 hours. White solid was isolated by filtration. The solid was washed with ethyl acetate (1000 mL) and dried in a vacuum oven at 60° C. for 24 hours. The solid was slurried in 308 mL of 200 proof ethanol for 1.5 hours, then isolated by filtration. The solid was washed with 132 mL of 200 proof ethanol and dried in a vacuum oven at 50° C. for 18 hours. The title compound was isolated as a white solid (32.6 g, 100% potency vs. standard, 73% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 11.41 (d, J=2.1 Hz, 1H), 10.04 (s, 1H), 8.02 (d, J=0.9 Hz, 1H), 7.98-7.91 (m, 2H), 7.79 (d, J=7.9 Hz, 1H), 7.72 (d, J=2.0 Hz, 1H), 7.69 (dd, J=8.5, 1.7 Hz, 1H), 7.41 (dd, J=8.8, 2.2 Hz, 1H), 7.36 (d, J=2.7 Hz, 1H), 7.31 (d, J=2.7 Hz, 1H), 5.65 (dd, J=7.9, 2.2 Hz, 1H), 3.24 (s, 3H), 3.08 (s, 3H), 1.42 (s, 9H).

reactant | di-tert-butyl(2′,4′,6′-triisopropyl-3,4,5,6-tetramethylbiphenyl-2-yl)phosphine | 0.864 mmol, 0.416 g | C(C)(C)(C)P(C1=C(C(=C(C(=C1C)C)C)C)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C33H53P
reactant | potassium phosphate tribasic | 99.0 mmol, 21.0 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 6-(3-tert-butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate | 90 mmol, 62.9 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C1=C(C(=CC(=C1)N1C(NC(C=C1)=O)=O)C(C)(C)C)OC)F | C29H23F9N2O6S
reactant | methanesulfonamide | 135 mmol, 12.85 g | CS(=O)(=O)N | CH5NO2S
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.360 mmol, 0.330 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | t-amyl alcohol | 505 mL | C(C)(C)(CC)O | C5H12O
product | N-(6-(3-tert-butyl-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2-methoxyphenyl)naphthalen-2-yl)methanesulfonamide | 73% yield | C(C)(C)(C)C=1C(=C(C=C(C1)N1C(NC(C=C1)=O)=O)C=1C=C2C=CC(=CC2=CC1)NS(=O)(=O)C)OC | C26H27N3O5S
